*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-02[uF]/50[V]
* Murata P/N :GRM155R71H473KE14
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H473KE14 Port1 Port2
C01 Port1 N01 4.63e-08
R01 Port1 N01 1.06e+09
L02 N01 N02 1.87e-10
R03 N02 N03 2.24e-02
C04 N03 N04 5.03e-06
R04 N03 N04 5.11e+02
C05 N04 N05 9.15e-06
R05 N04 N05 4.06e+01
C06 N05 N06 7.43e-06
R06 N05 N06 9.08e+00
C07 N06 N07 8.32e-06
R07 N06 N07 1.77e+00
C08 N07 N08 5.53e-06
R08 N07 N08 4.43e-01
C09 N08 N09 4.47e-06
R09 N08 N09 1.02e-01
C10 N09 N10 2.70e-06
R10 N09 N10 2.38e-02
L11 N10 N11 1.36e-11
R11 N10 N11 1.32e-01
L12 N11 N12 8.79e-11
R12 N11 N12 1.10e-01
C13 N12 N13 3.32e-07
L13 N12 N13 1.20e-11
R13 N12 N13 1.51e-02
C14 N13 N14 7.35e-08
L14 N13 N14 2.36e-11
R14 N13 N14 2.95e-02
C15 N14 Port2 1.51e-11
L15 N14 Port2 2.18e-11
R15 N14 Port2 5.15e+00
.ENDS GRM155R71H473KE14
